US07517875B2
After dissolving 2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazole-5-carboxylic acid methyl ester (1 g, 2.33 mmol) in 1,4-dioxane (25 ml), di-t-butyl dicarbonate (1017 mg, 4.66 mmol) was added and the mixture was stirred at 80° C. for 11 hours. The solvent was distilled off under reduced pressure, and the obtained residue was purified by silica gel column chromatography (dichloromethane/methanol/TEA=85/10/5) to obtain 2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-benzimidazole-1,5-dicarboxylic acid 1-tert-butyl ester 5-methyl ester. The compound was identified by LC-MS.

reactant | 2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazole-5-carboxylic acid methyl ester | 2.33 mmol, 1 g | COC(=O)C1=CC2=C(NC(=N2)NCC2CCN(CC2)CC2=CC=CC3=CC=CC=C23)C=C1 | C26H28N4O2
reactant | di-t-butyl dicarbonate | 4.66 mmol, 1017 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-benzimidazole-1,5-dicarboxylic acid 1-tert-butyl ester 5-methyl ester | COC(=O)C1=CC2=C(N(C(=N2)NCC2CCN(CC2)CC2=CC=CC3=CC=CC=C23)C(=O)OC(C)(C)C)C=C1 | C31H36N4O4
